US08236963B2
Intermediate 3: methyl (2Z)-cyano[2-oxo-5-(trifluoromethoxy)-1,2-dihydro-3H-indol-3-ylidene]acetate, (cf. Schemes 1, 2, compound VII)
Following the general method as outlined for Intermediate 1, starting from 5-(trifluoromethoxy)-isatin and methyl cyanoacetate, the title compound was isolated, after evaporation, as a dark purple solid in 77% yield. This was a 7.5:1 mixture of geometric isomers.

reactant | 5-(trifluoromethoxy)-isatin | FC(OC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C9H4F3NO3
reactant | methyl cyanoacetate | C(#N)CC(=O)OC | C4H5NO2
product | methyl (2Z)-cyano[2-oxo-5-(trifluoromethoxy)-1,2-dihydro-3H-indol-3-ylidene]acetate | 77% yield | C(#N)/C(/C(=O)OC)=C\1/C(NC2=CC=C(C=C12)OC(F)(F)F)=O | C13H7F3N2O4
